US05387710
A solution of N-benzyl-N-formyl-(3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (0.80 g) in formic acid (16 ml) was refluxed for 2 hours. After cooling, the solution was evaporated in vacuo. The residue was dissolved in ethyl acetate and the solution was washed successively with 1N sodium hydroxide solution, 1N hydrochloric acid, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol (20:1) as an eluent to give N-benzyl-N-formyl-(3-formylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (0.84 g).

reactant | N-benzyl-N-formyl-(3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 0.80 g | C(C1=CC=CC=C1)N(C=O)C1CC2=C(CCC1)C=CC(=C2)N | C19H22N2O
reactant | formic acid | 16 ml | C(=O)O | CH2O2
product | N-benzyl-N-formyl-(3-formylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 0.84 g | C(C1=CC=CC=C1)N(C=O)C1CC2=C(CCC1)C=CC(=C2)NC=O | C20H22N2O2
